US07273875B2
4-[8-(3-Trifluoromethoxyphenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester
This compound is prepared in an analogous way to compound 4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester from trifluoromethanesulfonic acid 8-(3-trifluromethoxyphenyl)-[1,7]naphthyridin-6-yl ester. Purification is by chromatography followed by trituration with ether to yield a white solid. MS (AP+) 445

reactant | 4-[8-(3-cyano-phenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)C#N | C24H23N3O2
reactant | trifluoromethanesulfonic acid 8-(3-trifluromethoxyphenyl)-[1,7]naphthyridin-6-yl ester | FC(OC=1C=C(C=CC1)C=1N=C(C=C2C=CC=NC12)OS(=O)(=O)C(F)(F)F)(F)F | C16H8F6N2O4S
product | 4-[8-(3-Trifluoromethoxyphenyl)-[1,7]naphthyridin-6-yl]-cyclohexanecarboxylic acid ethyl ester | C(C)OC(=O)C1CCC(CC1)C=1C=C2C=CC=NC2=C(N1)C1=CC(=CC=C1)OC(F)(F)F | C24H23F3N2O3
